US04900744
11-(4,5-Diphenyl-1H-imidazol-2-ylthio)undecanoic acid ethyl ester
To a solution of 12.6 g (0.05 mole) 4,5-diphenyl-2-imidazolethiol in 125 ml dimethylformamide was added, dropwise, 14.2 g (0.05 mole) ethyl-11-bromoundecanoate in 40 ml dimethylformamide and the reaction mixture was stirred at reflux under nitrogen overnight. The cooled solution was poured into 5% sodium bicarbonate and ice and then extracted with ethyl acetate. The organic layer was backwashed with 5% sodium bicarbonate, water, and saturated sodium chloride solution, then dried over magnesium sulfate and the solvent was removed under vacuum. The residue was chromatographed using hexane:ethyl acetate (9:1). The resulting solid was triturated with hexane to give 13.58 g (0.029 mole) of the title compound as a white solid, mp=57°-59° C. 1HNMR(DMSO-d6): δ12.6(s,1H), 7.6-7.1(m,10H), 4.0(q,2H,J=8Hz), 3.5(t,2H,J=7Hz), 2.25(t,2H,J=7Hz), 1.8-1.1(m.21H).

reactant | 4,5-diphenyl-2-imidazolethiol | 0.05 mole, 12.6 g | C1(=CC=CC=C1)C=1N=C(NC1C1=CC=CC=C1)S | C15H12N2S
reactant | ethyl-11-bromoundecanoate | 0.05 mole, 14.2 g | C(C)OC(CCCCCCCCCCBr)=O | C13H25BrO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 125 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 11-(4,5-Diphenyl-1H-imidazol-2-ylthio)undecanoic acid ethyl ester | 0.029 mole, 13.58 g | C(C)OC(CCCCCCCCCCSC=1NC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)=O | C28H36N2O2S
